### PR TITLE
[Merged by Bors] - feat: missing WellFoundedLT instances

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/RelClasses.lean [hunk 1]
```diff
@@ -521,6 +521,25 @@ theorem Subrelation.isWellFounded (r : α → α → Prop) [IsWellFounded α r]
...
+    rintro ⟨a₁, b₁⟩ ⟨a₂, b₂⟩ w
+    simp only [Prod.mk_lt_mk] at w
+    rcases w with ⟨a_lt, _⟩ | ⟨a_le, b_lt⟩
+    · left
+      assumption
+    · rcases eq_or_lt_of_le a_le with rfl | a_lt
+      · right
+        assumption
+      · left
+        assumption
```
Comment (ocfnash) [inline Mathlib/Order/RelClasses.lean:537]: I'm being a bit ridiculous but if you want to deal with each `left` / `right` case just once you can do this:
```suggestion
    rcases eq_or_ne a₁ a₂ with rfl | ha
    · right
      simpa using w
    · left
      rcases w with ⟨a_lt, _⟩ | ⟨a_le, _⟩
      · assumption
      · exact Ne.lt_of_le ha a_le
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

**Comment by semorrison** [comment]
bors merge
